US09428508B2
To a suspension of cesium carbonate (20.2 g, 0.065 mol) in acetonitrile (500 mL) at room temperature was added N-methylmethanesulfonamide (5.33 g, 0.049 mol) and 1-fluoro-2-nitrobenzene (4.59 g, 0.033 mol) dropwise over 10-15 minutes. The reaction was stirred at room temperature for 12 hours. Upon completion, the mixture was filtered and then concentrated. The residue was purified by silica gel chromatography (dichloromethane) to afford the product N-methyl-N-(2-nitrophenyl)methanesulfonamide (4.2 g, yield 56.1%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.92-7.94 (dd, 1H, J=1.2 Hz, 8.0 Hz), 7.74-7.81 (m, 2H), 7.57-7.62 (m, 1H), 3.27 (s, 3H), 3.03 (s, 3H).

reactant | cesium carbonate | 0.065 mol, 20.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylmethanesulfonamide | 0.049 mol, 5.33 g | CNS(=O)(=O)C | C2H7NO2S
reactant | 1-fluoro-2-nitrobenzene | 0.033 mol, 4.59 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | N-methyl-N-(2-nitrophenyl)methanesulfonamide | 4.2 g, yield 56.1% | CN(S(=O)(=O)C)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O4S
